US08729117B2
Crude dibenzyl (S)-2-{2-[5-(5-carbamimidoyl-1H-benzimidazol-2-yl)-6,2′-dihydroxy-5′-sulfamoylbiphenyl-3-yl]acetylamino}succinate (18 g) was dissolved in a 1:1 mixture of acetic acid and water (800 mL), assisted by sonication. To this solution was added palladium hydroxide on carbon (Pearlman's catalyst, 20 wt % Pd on a dry weight basis, containing 50% water by weight; 7.0 g). The reaction mixture was pressurized to 30 psi with hydrogen and the suspension was shaken on a Parr apparatus for 10 h. The catalyst was removed by filtration and the solvent was removed in vacuo. Crude (S)-2-{2-[5-(5-carbamimidoyl-1H-benzimidazol-2-yl)-6,2′-dihydroxy-5′-sulfamoylbiphenyl-3-yl]acetylamino}succinic acid was purified by preparative reverse-phase HPLC to give (S)-2-{2-[5-(5-carbamimidoyl-1H-benzimidazol-2-yl)-6,2′-dihydroxy-5′-sulfamoylbiphenyl-3-yl]acetylamino}succinic acid (7.2 g).

reactant | dibenzyl (S)-2-{2-[5-(5-carbamimidoyl-1H-benzimidazol-2-yl)-6,2′-dihydroxy-5′-sulfamoylbiphenyl-3-yl]acetylamino}succinate | 18 g | C(N)(=N)C1=CC2=C(NC(=N2)C=2C=C(C=C(C2O)C2=C(C=CC(=C2)S(N)(=O)=O)O)CC(=O)N[C@H](C(=O)OCC2=CC=CC=C2)CC(=O)OCC2=CC=CC=C2)C=C1 | C40H36N6O9S
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 800 mL | O | H2O
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
catalyst | Pd | [Pd] | Pd
product | (S)-2-{2-[5-(5-carbamimidoyl-1H-benzimidazol-2-yl)-6,2′-dihydroxy-5′-sulfamoylbiphenyl-3-yl]acetylamino}succinic acid | 7.2 g | C(N)(=N)C1=CC2=C(NC(=N2)C=2C=C(C=C(C2O)C2=C(C=CC(=C2)S(N)(=O)=O)O)CC(=O)N[C@H](C(=O)O)CC(=O)O)C=C1 | C26H24N6O9S
